US05726192
a) N-(2,2-Dimethoxyethyl)thiourea
Methanol (200 mL) was saturated with ammonia and stirred with isothiocyanatoacetaldehyde dimethyl acetal (5.0 g) for 2 h. The mixture was concentrated and the residue was chromatographed (silica gel, 5% methanol/dichloromethane) to give the title compound.

reactant | ammonia | N | H3N
reactant | isothiocyanatoacetaldehyde dimethyl acetal | 5.0 g | COC(CN=C=S)OC | C5H9NO2S
solvent | Methanol | 200 mL | CO | CH4O
product | N-(2,2-Dimethoxyethyl)thiourea | COC(CNC(=S)N)OC | C5H12N2O2S
